US07109199B2
Ethyl 6-(2,3-difluorophenyl)-3-hydroxypyridazine-4-carboxylate
Diethyl 2-[2-(2,3-difluorophenyl)-2-oxoethyl]-2-hydroxymalonate (18.50 g, 56.1 mmol) and hydrazine monohydrochloride (4.03 g, 58.8 mmol) were stirred at reflux in ethanol (300 mL) for 96 h, and then evaporated to dryness to afford the title compound as a solid.

reactant | Diethyl 2-[2-(2,3-difluorophenyl)-2-oxoethyl]-2-hydroxymalonate | 56.1 mmol, 18.50 g | FC1=C(C=CC=C1F)C(CC(C(=O)OCC)(C(=O)OCC)O)=O | C15H16F2O6
reactant | hydrazine monohydrochloride | 58.8 mmol, 4.03 g | Cl.NN
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | Ethyl 6-(2,3-difluorophenyl)-3-hydroxypyridazine-4-carboxylate | FC1=C(C=CC=C1F)C1=CC(=C(N=N1)O)C(=O)OCC | C13H10F2N2O3
